US07635785B2
Aluminum Diethylphosphinate
1500 g (14 mol) of sodium hypophosphite monohydrate and 35 g of concentrated sulfuric acid were dissolved in 7.5 kg of water and used as initial charge in a 16 l jacketed pressure reactor composed of enameled steel. Once the reaction mixture had been heated to 10° C., ethylene was introduced by way of a reducing valve set to 6 bar until saturation had been reached in the reactor. A solution of 80 g (5 mol %) of hydrogen peroxide (33% by weight) in 300 g of water was metered in uniformly over a period of 6 h with constant stirring at an ethylene pressure of 6 bar and a temperature of from 100 to 110° C. After a continued reaction time of 1 h, depressurization of the reactor, and cooling to about 90° C., 746 g (4.67 mol of aluminum) of aluminum acetate in 2254 g of water were added within a period of 60 min. The resultant solid was then filtered off, washed with 2 l of hot water, and vacuum-dried at 130° C. Yield: 1721 g (93.5% of theory).

reactant | sodium hypophosphite monohydrate | 14 mol, 1500 g | O.[PH2](=O)[O-].[Na+]
reactant | sulfuric acid | 35 g | S(O)(O)(=O)=O | H2O4S
reactant | ethylene | C=C | C2H4
reactant | hydrogen peroxide | 80 g | OO | H2O2
reactant | aluminum acetate | 4.67 mol, 746 g | C(C)(=O)[O-].[Al+3].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | water | 7.5 kg | O | H2O
solvent | water | 300 g | O | H2O
solvent | water | 2254 g | O | H2O
product | Aluminum Diethylphosphinate | C(C)P([O-])(=O)CC.[Al+3].C(C)P([O-])(=O)CC.C(C)P([O-])(=O)CC | InChI=1S/3C4H11O2P.Al/c3*1-3-7(5,6)4-2;/h3*3-4H2,1-2H3,(H,5,6);/q;;;+3/p-3
